US08193192B2
To a solution of 4-(6-methoxy-pyridin-3-yloxy)-benzoic acid methyl ester (0.2 g, 0.8 mmol) in acetonitrile (6 ml) was added iodotrimethylsilane (0.346 g, 1.73 mmol) and the mixture was allowed to reflux for 1 h. The reaction mixture was diluted with water (8 ml) and extracted with chloroform. The extract was washed with 10% aqueous Na2S2O3 and water and dried over anhydrous Na2SO4. The solvent was removed under reduced pressure to afford 0.19 g (87%) of 4-(6-hydroxy-pyridin-3-yloxy)-benzoic acid methyl ester as yellowish crystals.

reactant | 4-(6-methoxy-pyridin-3-yloxy)-benzoic acid methyl ester | 0.8 mmol, 0.2 g | COC(C1=CC=C(C=C1)OC=1C=NC(=CC1)OC)=O | C14H13NO4
reactant | iodotrimethylsilane | 1.73 mmol, 0.346 g | I[Si](C)(C)C | C3H9ISi
solvent | acetonitrile | 6 ml | C(C)#N | C2H3N
solvent | water | 8 ml | O | H2O
product | 4-(6-hydroxy-pyridin-3-yloxy)-benzoic acid methyl ester | 0.19 g, 87% | COC(C1=CC=C(C=C1)OC=1C=NC(=CC1)O)=O | C13H11NO4
